US07365095B2
To a solution of (2R)-2-(6-chloro-2′-methyl-3-(prop-1-enyl)biphenyl-2-yloxy)but-3-enyl 4-methylbenzenesulfonate (1.4 g, 2.9 mmol) in 1,2-dichloroethane (30 mL) was added benzylidene-bis(tricyclohexylphosphine)dichlororuthenium (0.57 g, 0.69 mmol) and the resulting mixture was stirred at room temperature overnight. The solvent was removed under reduced pressure. Purification by ISCO using a solvent gradient of 0 to 20% ethyl acetate in hexanes provided 0.8 g (63%) of ((2R)-7-chloro-8-o-tolyl-2H-chromen-2-yl)methyl 4-methylbenzenesulfonate as a thick dark oil.

reactant | (2R)-2-(6-chloro-2′-methyl-3-(prop-1-enyl)biphenyl-2-yloxy)but-3-enyl 4-methylbenzenesulfonate | 2.9 mmol, 1.4 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H](C=C)OC1=C(C(=CC=C1C=CC)Cl)C1=C(C=CC=C1)C | C27H27ClO4S
solvent | 1,2-dichloroethane | 30 mL | ClCCCl | C2H4Cl2
catalyst | benzylidene-bis(tricyclohexylphosphine)dichlororuthenium | 0.69 mmol, 0.57 g | C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.C1=CC=C(C=C1)C=[Ru](Cl)Cl
product | ((2R)-7-chloro-8-o-tolyl-2H-chromen-2-yl)methyl 4-methylbenzenesulfonate | 0.8 g, 63% | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C(=CC=C2C=C1)Cl)C1=C(C=CC=C1)C | C24H21ClO4S
